US08981111B2
To a solution of 2-{6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)-methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (6.80 g, 15.3 mmol) in tetrahydrofuran (30 mL) was added dropwise hydrazine hydrate (3.72 mL, 76.7 mmol). After stirring at room temperature for 30 h, the reaction mixture was filtered, the insolubles washed with ethyl acetate, and the filtrate concentrated in vacuo. Purification on silica gel afforded 6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyridin-2-amine [3.02 g, yield 60%; HPLC/MS: m/z=314 (M+H); log P(HCOOH)=0.39].

reactant | 2-{6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)-methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 15.3 mmol, 6.80 g | CN1C=NC=C1C(C1=CSC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C23H17N5O3S
reactant | hydrazine hydrate | 76.7 mmol, 3.72 mL | O.NN
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyridin-2-amine | 3.02 g, yield 60% | CN1C=NC=C1C(C1=CSC=C1)=NOCC1=CC=CC(=N1)N | C15H15N5OS
